US08383652B2
In a manner similar to that of Example 25c, 4 mg (0.018 mmol) of palladium acetate and then 13 mg (0.036 mmol) of 2-(dicyclohexylphosphino)biphenyl are added to a mixture of 0.7 g (1.8 mmol) of methyl (Z)-3-(3-butoxy-4-iodophenyl)-2-methoxyacrylate prepared as in Example 24c, 0.5 g (2.15 mmol) of methyl[3-(4,4,5,5-tetramethyl[1.3.2]dioxaborolan-2-yl)phenyl]amine and 1.8 mL of aqueous 2M potassium phosphate solution in 10 mL of dimethylformamide. The reaction mixture is heated at 90-95° C. for 1 hour. The reaction medium is hydrolyzed with saturated aqueous ammonium chloride solution and extracted with ethyl acetate. The organic phases are combined, washed with saturated sodium chloride solution and dried over magnesium sulfate. The solvent is evaporated off and the residue is purified by chromatography on a column of silica eluted with a 60/40 heptane/ethyl acetate mixture. 0.5 g (71%) of methyl (Z)-3-(2-butoxy-3′-methylaminobiphenyl-4-yl)-2-methoxyacrylate are obtained.

reactant | methyl (Z)-3-(3-butoxy-4-iodophenyl)-2-methoxyacrylate | 1.8 mmol, 0.7 g | C(CCC)OC=1C=C(C=CC1I)\C=C(\C(=O)OC)/OC | C15H19IO4
reactant | methyl[3-(4,4,5,5-tetramethyl[1.3.2]dioxaborolan-2-yl)phenyl]amine | 2.15 mmol, 0.5 g | CNC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C13H20BNO2
reactant | potassium phosphate | 2M | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.018 mmol, 4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-(dicyclohexylphosphino)biphenyl | 0.036 mmol, 13 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
product | methyl (Z)-3-(2-butoxy-3′-methylaminobiphenyl-4-yl)-2-methoxyacrylate | 0.5 g, 71% | C(CCC)OC1=C(C=CC(=C1)\C=C(\C(=O)OC)/OC)C1=CC(=CC=C1)NC | C22H27NO4
